US05773663
2,6-Dichloro-4'-hydroxy-5'-nitro-2'-methyl-benzophenone
Aluminumchloride (1.5 g; 11 mmol) is added to a solution of 2,6-dichloro-5'-nitro-4'-methoxy-2'-methyl-benzophenone (1.8 g; 5.3 mmol) in methylenechloride (6 ml). The mixture is stirred for 30 minutes at 20° C. and for 1 hour at 45° C., 5 ml conc. hydrochloric acid/ice are added. After shaking with 20 ml of methylenechloride the organic layer is treated with 2N hydrochloric acid and with water. After drying the solvent is evaporated, the residue purified by chromatography (flash column filled with 30 g of silicagel, elution with toluene). The residue from the main fraction is treated with diisopropylether to give yellow crystalls; (1.2 g; 73% y); mp. 170° C.

reactant | Aluminumchloride | 11 mmol, 1.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,6-dichloro-5'-nitro-4'-methoxy-2'-methyl-benzophenone | 5.3 mmol, 1.8 g | ClC1=C(C(=O)C2=C(C=C(C(=C2)[N+](=O)[O-])OC)C)C(=CC=C1)Cl | C15H11Cl2NO4
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | water | O | H2O
solvent | methylenechloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,6-Dichloro-4'-hydroxy-5'-nitro-2'-methyl-benzophenone | ClC1=C(C(=O)C2=C(C=C(C(=C2)[N+](=O)[O-])O)C)C(=CC=C1)Cl | C14H9Cl2NO4
